US05359054
17,17-bis-(ethylenedioxy)-11-(4-hydroxyphenyl)-5,9(11)-estradiene is dissolved under protective gas together with 8.45 g of 4-dimethylaminopyridine in 160 ml of absolute methylene chloride, cooled to -78° C. and mixed with 2.5 ml of trifluoromethanesulfonic acid anhydride dissolved in 17 ml of absolute methylene chloride. After one hour more of stirring the reaction mixture is poured on saturated sodium bicarbonate solution and the aqueous phase is extracted several times with methylene chloride. The combined organic phases are washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel with a mixture of ethyl acetate/hexane and 4.21 g of 3,3;17,17-bis-(ethylenedioxy)-11-(4-trifluoromethylsulfonyloxyphenyl)-5,9(11)-estradiene is obtained.

reactant | 17,17-bis-(ethylenedioxy)-11-(4-hydroxyphenyl)-5,9(11)-estradiene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3C1=C(C4)C4=CC=C(C=C4)O | C28H34O5
reactant | trifluoromethanesulfonic acid anhydride | 2.5 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 8.45 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 17 ml | C(Cl)Cl | CH2Cl2
product | 17,17-bis-(ethylenedioxy)-11-(4-trifluoromethylsulfonyloxyphenyl)-5,9(11)-estradiene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3C1=C(C4)C4=CC=C(C=C4)OS(=O)(=O)C(F)(F)F | C29H33F3O7S
